US04578392
2-Isopropyl-3-(1-hydroxy-2,2-dimethylpropyl)pyrazolo[1,5-a]pyridine
To a suspension of 1.6 g of magnesium in 10 ml of dry ether was added a solution of 9.3 g of tert. butylbromide in 15 ml of dry ether under stirring. After the addition was completed, the stirring was continued for an hour at room temperature. To the Grignard reagent were added 2.5 g of 2-isopropyl-3-formylpyrazolo[1,5-a]pyridine in 5 ml of dry benzene under stirring. The mixture was stirred for an hour at room temperature and 11 hours at reflux temperature. The reaction mixture was treated with 100 ml of aqueous 20% ammonium chloride solution and extracted with ether. The ether layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was subjected to silica gel column chromatography, eluted with dichloromethane, to give 1.7 g (52%) of pale yellow crystals, mp 95° C.

reactant | magnesium | 1.6 g | [Mg] | Mg
reactant | tert. butylbromide | 9.3 g | C(C)(C)(C)Br | C4H9Br
reactant | 2-isopropyl-3-formylpyrazolo[1,5-a]pyridine | 2.5 g | C(C)(C)C1=NN2C(C=CC=C2)=C1C=O | C11H12N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | benzene | 5 ml | C1=CC=CC=C1 | C6H6
product | 2-Isopropyl-3-(1-hydroxy-2,2-dimethylpropyl)pyrazolo[1,5-a]pyridine | 1.7 g, 52% | C(C)(C)C1=NN2C(C=CC=C2)=C1C(C(C)(C)C)O | C15H22N2O
